US07598391B2
1,1-Dicyclohexyl-3-[5-(4-propionyl-piperazin-1-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (60 mg, 0.18 mmol), 1-piperazinyl-1-propanone (39 mg, 0.22 mmol), catalytic acetic acid and sodium triacetoxyborohydride (47 mg, 0.22 mmol) to afford 12 mg (15%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.18 mmol, 60 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | 1-piperazinyl-1-propanone | 0.22 mmol, 39 mg | N1(CCNCC1)C(CC)=O | C7H14N2O
reactant | sodium triacetoxyborohydride | 0.22 mmol, 47 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1-Dicyclohexyl-3-[5-(4-propionyl-piperazin-1-ylmethyl)-thiazol-2-yl]-urea | 12 mg, 15% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)C(CC)=O)C1CCCCC1 | C24H39N5O2S
